US05041510
(1) 4-Triflylbenzenediazonium hexafluorophosphate
A stirred solution of 22.5 g (0.1 mole) of 4-triflylaniline in HCl/H2O (50:50) is cooled in an ice bath to about 10° C., and 6.9 g (1 mole) of sodium nitrite in a minimum amount of water is added slowly to the mixture, while maintaining the temperature below 10° C. The reaction then is warmed to room temperature and stirred for 15 additional minutes. Sodium hexafluorophosphate (16.7 g, 0.1 mole) is added in portions, and the mixture is stirred for 10 minutes more. The solid product is collected by vacuum filtration and dried.

reactant | 4-triflylaniline | 0.1 mole, 22.5 g | S(=O)(=O)(C(F)(F)F)C1=CC=C(N)C=C1 | C7H6F3NO2S
reactant | sodium nitrite | 1 mole, 6.9 g | N(=O)[O-].[Na+]
reactant | water | O | H2O
reactant | Sodium hexafluorophosphate | 0.1 mole, 16.7 g | F[P-](F)(F)(F)(F)F.[Na+]
solvent | HCl H2O | Cl.O
product | 4-Triflylbenzenediazonium hexafluorophosphate | F[P-](F)(F)(F)(F)F.S(=O)(=O)(C(F)(F)F)C1=CC=C(C=C1)[N+]#N | InChI=1S/C7H4F3N2O2S.F6P/c8-7(9,10)15(13,14)6-3-1-5(12-11)2-4-6;1-7(2,3,4,5)6/h1-4H;/q+1;-1
